US07572820B2
B. 2-Butyl-1-(cyclopropylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-butyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and (bromomethyl)cyclopropane: 1H NMR (400 MHz, CDCl3) δ 7.48 (s, 2H), 6.57 (s, 1H), 4.05 (d, J=6.3 Hz, 2H), 2.78 (t, J=7.8 Hz, 2H), 1.78 (m, 2H), 1.50 (m, 2H), 1.14 (m, 1H), 1.00 (t, J=7.3 Hz, 3H), 0.60 (m, 2H), 0.35 (m, 2H); MS (ES) m/z 321 (M+1).

reactant | 2-butyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(CCC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C14H13F3N2
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | 2-Butyl-1-(cyclopropylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(CCC)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1CC1 | C18H19F3N2
